US05034047
d) 3-Tert-butyl-5-formyl-5-methylisoxazoline
A solution of 117.0 g (1.5 moles) of dimethylsulfoxide in 300 ml of dichloromethane was added dropwise to a solution of 83.8 g (0.66 mole) of oxalyl chloride in 750 ml of dichloromethane at -60° C. The reaction mixture was stirred for 15 minutes at this temperature, after which 102.6 g (0.6 mole) of 3-tert-butyl-5-hydroxymethyl-5-methylisoxazoline were added and stirring was continued for a further 15 minutes. After the dropwise addition of 303.6 g (3.0 moles) of triethylamine, the mixture was stirred for a further 10 minutes and was heated to 25° C. and 1.8 l of water were added. After 10 minutes, the organic phase was separated off, the aqueous phase was extracted with twice 600 ml of dichloromethane and the combined organic phases were washed with three times 450 ml of a 1N hydrochloric acid and once with 450 ml of a saturated sodium carbonate solution, dried and evaporated down. 100 g of a yellow liquid were obtained, this liquid being subjected to fractional distillation under 0.2 mbar.

reactant | dimethylsulfoxide | 1.5 moles, 117.0 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.66 mole, 83.8 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-tert-butyl-5-hydroxymethyl-5-methylisoxazoline | 0.6 mole, 102.6 g | C(C)(C)(C)C1=NOC(C1)(C)CO | C9H17NO2
reactant | triethylamine | 3.0 moles, 303.6 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 750 ml | ClCCl | CH2Cl2
solvent | water | 1.8 l | O | H2O
product | 3-Tert-butyl-5-formyl-5-methylisoxazoline | 100 g | C(C)(C)(C)C1=NOC(C1)(C)C=O | C9H15NO2
